US09353093B2
To the nitrogen degassed solution of 1-(2-iodophenyl)urea (1.31 g, 5 mmol, 1 eq), 3-ethynylaniline (0.8 mL, 1.5 eq), triphenylphosphine (32.8 mg, 0.025 eq), and triethylamine (2.1 mL, 3 eq) in anhydrous DMF (12.5 mL) was added copper(I) iodide (190.4 mg, 0.2 eq) and bis(triphenylphosphine)palladium(II) dichloride (351 mg, 0.1 eq). After the reaction mixture was stirred at room temperature for 10 minutes, it was diluted with ethyl acetate, washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, brine, and lastly dried with anhydrous sodium sulfate. The upper solution was decanted, concentrated, and the solid mixture was subject to a gradient column chromatography (EtOAc-Hex 1:2 to MeOH-EtOAc 1:9) to give 1-{2-[(3-aminophenyl)ethynyl]phenyl}urea as a brown solid in amount of 1.26 g.

reactant | 1-(2-iodophenyl)urea | 5 mmol, 1.31 g, 1 eq | IC1=C(C=CC=C1)NC(=O)N | C7H7IN2O
reactant | 3-ethynylaniline | 0.8 mL, 1.5 eq | C(#C)C=1C=C(N)C=CC1 | C8H7N
reactant | triphenylphosphine | 32.8 mg, 0.025 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 2.1 mL, 3 eq | C(C)N(CC)CC | C6H15N
solvent | DMF | 12.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 190.4 mg, 0.2 eq | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 351 mg, 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-{2-[(3-aminophenyl)ethynyl]phenyl}urea | NC=1C=C(C=CC1)C#CC1=C(C=CC=C1)NC(=O)N | C15H13N3O
